US07691882B2
3-(3-(4-(6-Methoxy-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol (30 mg, 0.11 mmol) described in Manufacturing Example 18-1-1 was added a 5 N sodium hydroxide aqueous solution (21.2 μL, 0.11 mmol), which was dissolved by irradiating ultrasonic wave for 1 minute. The reaction solution was concentrated under a reduced pressure, which gave a white solid. To a mixture of this solid and N,N-dimethylformamide (1 mL) was added an N,N-dimethylformamide (1 mL) solution of 2-chloromethyl-6-methoxypyridine (20.0 mg, 0.13 mmol) described in Manufacturing Example 99-1-2, which was stirred for 1 hour at 60° C. This reaction mixture was cooled to room temperature, and then partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (26.1 mg, 61%).

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 4-(5-(2,6-diamino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 0.11 mmol, 30 mg | NC1=NC(=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O)N | C15H14N4O2
reactant | sodium hydroxide | 0.11 mmol, 5 N, 21.2 μL | [OH-].[Na+]
reactant | 2-chloromethyl-6-methoxypyridine | 0.13 mmol, 20.0 mg | ClCC1=NC(=CC=C1)OC | C7H8ClNO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(3-(4-(6-Methoxy-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 26.1 mg, 61% | COC1=CC=CC(=N1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C22H21N5O3
